US06326386B1
3-({3-[2-(Benzyloxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoyl}-tert-butyl-amino)-propionic acid
To a stirred solution of 3-({3-[2-(benzyloxycarbonyl-pyridin-yl-amino)-ethoxy]-5-chloro-benzoyl}-tert-butyl-amino)-propionic acid methyl ester (0.038 g) in a mixture of 1,4-dioxane (1 ml) and water (0.5 ml) was added 2M sodium hydroxide solution (0.066 ml). The reaction mixture was stirred at room temperature for 1 h, neutralised by the addition of 2M hydrochloric acid (0.066 ml) and then concentrated under reduced pressure. The residue was partitioned between ethyl acetate and brine, the aqueous layer was removed and the organic layer was dried over sodium sulphate and then concentrated under reduced pressure gave the title compound as a white solid (0.034 g).

reactant | 3-({3-[2-(benzyloxycarbonyl-pyridin-yl-amino)-ethoxy]-5-chloro-benzoyl}-tert-butyl-amino)-propionic acid methyl ester | 0.038 g | COC(CCN(C(C)(C)C)C(C1=CC(=CC(=C1)Cl)OCCN(C1=NC=CC=C1)C(=O)OCC1=CC=CC=C1)=O)=O | C30H34ClN3O6
reactant | sodium hydroxide | 2M, 0.066 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M, 0.066 ml | Cl | ClH
reactant | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.5 ml | O | H2O
product | 3-({3-[2-(Benzyloxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoyl}-tert-butyl-amino)-propionic acid | 0.034 g | C(C1=CC=CC=C1)OC(=O)N(CCOC=1C=C(C(=O)N(CCC(=O)O)C(C)(C)C)C=C(C1)Cl)C1=CC=NC=C1 | C29H32ClN3O6
